US05319100
1-Carbamoyl-3-(3-ethoxy-4-hydroxybenzylidene)pyrrolidin-2-one (Ia-19)
To a solution of 939 mg (2 mmol) of (1-carbamoyl-2-oxopyrrolidin-3-yl)triphenylphosphonium bromide in ethanol (16 ml) were added 332 mg (2 mmol) of 3-ethoxy-4-hydroxybenzaldehyde and 558 μl (4 mmol) of triethylamine, and the mixture was stirred at 60° C. for 2 hours. The reaction mixture was evaporated to give a residue, which was dissolved in diisopropyl ether and treated with 4 ml of 1N aq. sodium hydroxide. The aqueous layer was made acid with 1N hydrochloric acid under ice-cooling and the product was dissolved in ethyl acetate, washed with water and saturated brine, dried over magnesium sulfate and evaporated to give a residue, which was crystallized from a dichloromethane/n-hexane mixture to give 143 mg of the objective compound (Ia-19) in 26% yield.

reactant | (1-carbamoyl-2-oxopyrrolidin-3-yl)triphenylphosphonium bromide | 2 mmol, 939 mg | [Br-].C(N)(=O)N1C(C(CC1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O
reactant | 3-ethoxy-4-hydroxybenzaldehyde | 2 mmol, 332 mg | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | triethylamine | 4 mmol, 558 μl | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 16 ml | C(C)O | C2H6O
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Carbamoyl-3-(3-ethoxy-4-hydroxybenzylidene)pyrrolidin-2-one | 143 mg, 26% yield | C(N)(=O)N1C(C(CC1)=CC1=CC(=C(C=C1)O)OCC)=O | C14H16N2O4
